US04055595
Peracetic acid (40%, 13 ml.) is added dropwise to a stirred suspension of 4-(4-chlorophenyl)iodobenzene (12.6 g.) in acetic acid (25 ml.) at 30° C. during 1hour. The mixture is stirred at 30° C. for 6 hours, and at ambient temperature for 2 days, then evaporated to dryness in vacuo. The residue is washed with light petroleum, and is crystallised from chloroform to give 4-(4-chlorophenyl)-(diacetoxyiodo)-benzene (10.7 g.) m.p. 147°-150° C.

reactant | Peracetic acid | 13 ml | C(C)(=O)OO | C2H4O3
reactant | 4-(4-chlorophenyl)iodobenzene | 12.6 g | ClC1=CC=C(C=C1)C1=CC=C(C=C1)I | C12H8ClI
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 4-(4-chlorophenyl)-(diacetoxyiodo)-benzene | 10.7 g | ClC1=CC=C(C=C1)C1=CC=C(C=C1)I(OC(C)=O)OC(C)=O | C16H14ClIO4
